US08440666B2
Ethyl({4-[({[5-chloro-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]acetyl}amino)methyl]pyridin-3-yl}oxy)acetate
2-[5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-[(3-hydroxypyridin-4-yl)methyl]acetamide (12.7 mg, 0.03 mmol) in acetone (2 mL) was mixed with ethyl bromoacetate (4.4 μL, 0.04 mmol) and potassium carbonate (5.9 mg, 0.04 mmol) at room temperature and stirred at 50° C. for 1 hour. After cooling, the reaction solution was mixed with saturated aqueous ammonium chloride and extracted with ethyl acetate. The resulting organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/methanol=20/1) to give the desired product (4.8 mg, 30%).

reactant | 2-[5-Chloro-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-[(3-hydroxypyridin-4-yl)methyl]acetamide | 0.03 mmol, 12.7 mg | ClC1=C(C=NN(C1=O)CC(=O)NCC1=C(C=NC=C1)O)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C22H28ClN5O3
reactant | ethyl bromoacetate | 0.04 mmol, 4.4 μL | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.04 mmol, 5.9 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | Ethyl({4-[({[5-chloro-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]acetyl}amino)methyl]pyridin-3-yl}oxy)acetate | 4.8 mg, 30% | C(C)OC(COC=1C=NC=CC1CNC(CN1N=CC(=C(C1=O)Cl)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C)=O)=O | C26H34ClN5O5
